US09126969B2
A suspension of 370 mg of 6-(4-methylpiperazin-1-yl)-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-1H-benzimidazole in 10 mL of methanol and 37 mg of palladium-on-charcoal is hydrogenated under 1 bar of hydrogen pressure at ambient temperature for 18 hours. The reaction medium is filtered through celite and the filtrate is concentrated under reduced pressure in a rotary evaporator. 360 mg of 3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-ylamine are obtained in the form of a black oil. 1H NMR (300 MHz, DMSO-d6, δ in ppm): 1.50 to 2.21 (m, 6H); 2.23 (s, 3H); 2.50 (m masked, 4H); 3.08 (m, 4H); 3.61 (m, 1H); 3.94 (m, 1H); from 4.89 to 4.98 (m, 2H); 5.30 (broad d, J=10.0 Hz, 1H); from 6.85 to 7.12 (m, 2H); from 7.25 to 7.46 (m, 2H); from 12.2 to 12.35 (m, 1H).

reactant | 6-(4-methylpiperazin-1-yl)-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-1H-benzimidazole | 370 mg | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NN(C=C2[N+](=O)[O-])C2OCCCC2)C1 | C20H25N7O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium-on-charcoal | 37 mg | [Pd] | Pd
product | 3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-ylamine | 360 mg | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NN(C=C2N)C2OCCCC2)C1 | C20H27N7O
